US06797726B1
In 10 mL of ethylene glycol monomethyl ether is dissolved 1.2 g of 2-[(3,4-diaminophenethyl)oxy]-1-ethanol dihydrochloride, to which is added 0.93 g of formamidine acetate. The mixture is heated under reflux for 30 minutes. Then, the solvent is distilled off under reduced pressure, water and methylene chloride are added to the residue, pH is adjusted to 9 with 2 mol/L aqueous solution of sodium hydroxide, and the organic layer is separated. The aqueous layer is salted out and extracted with methylene chloride. The organic layers are collected, washed with saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. The solvent is distilled off under reduced pressure, and the residue is purified by column chromatography (eluent: chloroform:methanol=10:1) to obtain 0.52 g of 2-[2-(1H-benzo[d]imidazol-5-yl)ethoxy]-1-ethanol as an oily product.

reactant | 2-[(3,4-diaminophenethyl)oxy]-1-ethanol dihydrochloride | 1.2 g | Cl.Cl.NC=1C=C(CCOCCO)C=CC1N
reactant | formamidine acetate | 0.93 g | C(C)(=O)O.C(=N)N
solvent | ethylene glycol monomethyl ether | 10 mL | COCCO | C3H8O2
product | 2-[2-(1H-benzo[d]imidazol-5-yl)ethoxy]-1-ethanol | 0.52 g | N1C=NC2=C1C=CC(=C2)CCOCCO | C11H14N2O2
